US06992092B2
2-{6-[(5-Chloro-1H-indole-2-carbonyl)-amino]-5-ethoxy-pyridin-3-yl}-2-methyl-propionic acid ethyl ester
To a slurry of 0.31 mmol of 5-chloro-1H-indole-2-carboxylic acid in methylene chloride (1.5 mL) was added 0.4 mL of 1M oxalyl chloride solution in methylene chloride. A solution of DMF (0.031 mL) in methylene chloride (1 mL) was then added dropwise to the slurry. After shaking for 45 min., the acid chloride solution was added dropwise to a solution of 2-(6-amino-5-ethoxy-pyridin-3-yl)-2-methyl-propionic acid ethyl ester in DMF (0.5 mL) and pyridine (0.25 mL). The reaction mixture was then shaken overnight. The reaction mixture was partitioned between EtOAc and 1N aqueous hydrochloric acid, and the phases were separated. The organic phase was washed with 1N aqueous sodium hydroxide, brine, and dried over sodium sulfate. After filtration and evaporation, the residue was further purified on a 2 mm silica gel preparative plate, developing with 9:1 methylene chloride/methanol. The product band was extracted and evaporated to afford 22 mg (7% yield) of the title compound as an amorphous solid. AP/MS+=430, AP/MS−=428.

reactant | 5-chloro-1H-indole-2-carboxylic acid | 0.31 mmol | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | oxalyl chloride | 1M, 0.4 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(6-amino-5-ethoxy-pyridin-3-yl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)C=1C=NC(=C(C1)OCC)N)=O | C13H20N2O3
solvent | methylene chloride | 1.5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | pyridine | 0.25 mL | N1=CC=CC=C1 | C5H5N
solvent | DMF | 0.031 mL | CN(C)C=O | C3H7NO
product | 2-{6-[(5-Chloro-1H-indole-2-carbonyl)-amino]-5-ethoxy-pyridin-3-yl}-2-methyl-propionic acid ethyl ester | 22 mg, 7% yield | C(C)OC(C(C)(C)C=1C=NC(=C(C1)OCC)NC(=O)C=1NC2=CC=C(C=C2C1)Cl)=O | C22H24ClN3O4
